US07157578B2
E. 2-Methyl-3-(5-methylisoxazol-4-yl)-6-methoxypyridine.
A mixture of 4-iodo-5-methylisoxazole (18.2 g, 87 mmol), 6-methoxy-2-methylpyridine-3-boronic acid (14.6 g, 87 mmol), sodium bicarbonate (22.0 g, 262 mmol), water (150 mL) and DME (150 mL) was degassed three times with stirring by the application of a vacuum and then introduction of a nitrogen atmosphere. [1,1-Bis(diphenylphosphino)ferrocene]-dichloropalladium (II) (2.14 g, 2.6 mmol) was added in one portion. The reaction mixture was degassed as before. The reaction mixture was then stirred at 80° C. for 4 h, then it was cooled to ambient temperature. Three extractions with EtOAc, drying the combined organic layers over MgSO4, filtration and removal of solvent in vacuo afforded an oil. Flash chromatography (EtOAc:hexane::1:9) and removal of solvent in vacuo from the desired fractions gave the product (7.15 g): 1H-NMR(CDCl3, 300 MHz): δ 8.16 (s, 1H), 7.33 (d, 1H, J=8), 6.63 (d, 1H, J=8), 3.95 (s, 3H), 2.35 (s, 6H); APCI+−MS: 205 (M++H).

reactant | 4-iodo-5-methylisoxazole | 87 mmol, 18.2 g | IC=1C=NOC1C | C4H4INO
reactant | 6-methoxy-2-methylpyridine-3-boronic acid | 87 mmol, 14.6 g | COC1=CC=C(C(=N1)C)B(O)O | C7H10BNO3
reactant | sodium bicarbonate | 262 mmol, 22.0 g | C([O-])(O)=O.[Na+]
reactant | water | 150 mL | O | H2O
solvent | DME | 150 mL | COCCOC | C4H10O2
product | 2-Methyl-3-(5-methylisoxazol-4-yl)-6-methoxypyridine | 7.15 g | CC1=NC(=CC=C1C=1C=NOC1C)OC | C11H12N2O2
